US07371755B1
T-butyllithium (1.3M in pentane, 17.9 ml, 23.2 mmol) was added slowly to a solution of 2,6-dimethyl-4-bromo-methoxybenzene (2.5 g, 11.6 mmol) in anhydrous THF (50 ml) at −78° C. under an atmosphere of argon, then after 1 hour a solution of anhydrous zinc chloride (1.6 g, 11.7 mmol) in THF (40 ml) was added by cannula and the clear solution allowed to warm to room temperature and stir for 1 hr. This solution was then added by cannula to iodobenzene (2.37 g, 11.6 mmol) and bis(triphenylphosphine)palladium (II)chloride (81 mg, 116 μmol) in THF (40 ml) and allowed to stir overnight. The reaction was added to 1N HCl (150 ml) and extracted into dichloromethane (2×300 ml). The organic phase was washed with water (150 ml), brine (150 ml) and dried (Na2SO4). The crude product was concentrated and purified by chromatography on silica gel (100 g), eluent 10% dichloromethanelhexanes to give 2,6-dimethyl-4-phenyl-methoxybenzene (2.11 g, 9.9 mmol) in 86% yield. 1H nmr (CDCl3): δ=7.6-7.2 (m, 7H); 3.78 (s, 3H) and 2.37 (s, 6H). Boron tribromide (4.72 g, 19 mmol) was added dropwise to a solution of 2,6-dimethyl-4-phenyl-methoxybenzene (2.35 g, 11.1 mmol) in dichloromethane (45 ml) at −78° C. under argon, then the solution was allowed to warm to room temperature overnight. Ice/water (75 g) was added to quench the reaction, then the reaction was extracted with dichloromethane (2×200 ml). The organic layer was washed with water (50 ml), brine (50 ml) and dried (Na2SO4). Removal of the solvent gave 2,6-dimethyl-4-phenyl-phenol (2.15 g, 10.8 mmol) in 98% yield as a white solid, a single component by TLC Rf (0.13) eluent 4:1 dichloromethane/hexanes and 1H nmr. 1H nmr (CDCl3): δ=7.6-7.2 (m, 7H); 4.70 (s, 1H) and 2.37 (m, 6H).

reactant | T-butyllithium | 23.2 mmol, 1.3M, 17.9 ml | C(C)(C)(C)[Li]
reactant | 2,6-dimethyl-4-bromo-methoxybenzene | 11.6 mmol, 2.5 g | CC1=C(C(=CC(=C1)Br)C)OC | C9H11BrO
reactant | iodobenzene | 11.6 mmol, 2.37 g | IC1=CC=CC=C1 | C6H5I
reactant | HCl | 1N, 150 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | zinc chloride | 11.7 mmol, 1.6 g | [Cl-].[Zn+2].[Cl-]
product | 2,6-dimethyl-4-phenyl-methoxybenzene | 9.9 mmol, 2.11 g, 86% yield | CC1=C(C(=CC(=C1)C1=CC=CC=C1)C)OC | C15H16O
